US03957833
By utilizing the procedure of Example 1, by reacting hydroquinone monopropargyl ether with 3-methyl-2-butenyl bromide, there is obtained 1-[(3-methyl-2-butenyl)oxy]-4-propargyloxy-benzene; B.P. 145°-148°C/1 mmHg.

reactant | hydroquinone monopropargyl ether | C(C#C)OC1=CC=C(O)C=C1 | C9H8O2
reactant | 3-methyl-2-butenyl bromide | CC(=CCBr)C | C5H9Br
product | 1-[(3-methyl-2-butenyl)oxy]-4-propargyloxy-benzene | CC(=CCOC1=CC=C(C=C1)OCC#C)C | C14H16O2
